US04933355
5-[1-(2-Acetylaminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid 1/3 hydrate
A mixture comprising 4.35 g of ethyl 2-aminothiazol-4-ylglyoxylate, 5 g of rhodanine-3-acetic acid, 2.7 g of sodium acetate and 50 ml of acetic acid was heated under reflux for 2 days. The reaction mixture was then worked up as in Example 1, to give the desired compound as a yellow powder.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 4.35 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | rhodanine-3-acetic acid | 5 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | sodium acetate | 2.7 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-[1-(2-Acetylaminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid | C(C)(=O)NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O | C14H13N3O6S3
